US08138175B2
B) 5-Oxo-4-(3-oxo-propyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester
To a cooled (−78° C.) solution of 4-[2-(methoxy-methyl-carbamoyl)-ethyl]-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester 3 g (9 mmol) was added dropwise a solution of lithium aluminum hydride 9.1 ml (9 mmol, 1 M solution in THF). The mixture was quenched by addition of acetone and then AcOH. The reaction was allowed to reach RT after which time water and 10% aq. KHSO4 solution were added and the mixture repeatedly extracted with TBME. The combined organic was washed with brine, dried (MgSO4) and concentrated. Purification by flash column chromatography (EtOAc:MeOH 19:1) afforded the title compound 1.5 g (61%) as a colorless oil. MS: 271.5 (MH+).

reactant | 4-[2-(methoxy-methyl-carbamoyl)-ethyl]-5-oxo-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 9 mmol, 3 g | C(C)(C)(C)OC(=O)N1CCN(C(CC1)=O)CCC(N(C)OC)=O | C15H27N3O5
reactant | lithium aluminum hydride | 9 mmol, 1 M, 9.1 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 5-Oxo-4-(3-oxo-propyl)-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.5 g, 61% | C(C)(C)(C)OC(=O)N1CCN(C(CC1)=O)CCC=O | C13H22N2O4
